US06177440B1
A solution of the 9-[(2-pyridyl)methyl]-4-hydroxy-5-carbomethoxy carbazole (480 mg, 1.43 mmol) in 10 mL THF and 40 mL concentrated aqueous ammonium hydroxide was treated with a stream of NH3 gas to ensure saturation. The reaction vessel was capped and the mixture heated to 35° C. with stirring until tlc indicated complete consumption of starting material (20 hours). The THF was evaporated and the aqueous layer saturated with solid sodium chloride. The mixture was extracted three times with THF. The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated. The foam was taken up in hot ethyl acetate and passed over a shoroom temperature column of silica gel using ethyl acetate as the eluent to afford 247 mg (54%) of the 9-[(2-pyridyl)methyl]-4-hydroxy-5-carbamoyl carbazole as a white solid. 1H NMR (DMSO-d6) δ 10.46 (s, 1H), 8.81 (br s, 1H), 8.46 (d, 1H, J=5.8 Hz), 8.36 (br s, 1H), 7.8 (dd, 1H, J=2.9 and 6.4 Hz), 7.67-7.59 (m, 1H), 7.47-7.41 (m, 2H), 7.30-7.20 (m, 2H), 7.05 (d, 1H, J=7.9 Hz), 6.87 (d, 1H, J=8.3 Hz), 6.57 (d, 1H, J=7.8 Hz), and 5.73 (s, 2H). IR (KBr, cm−1) 3404, 3051, 1652, 1618, 1595, 1582, 1567, 1559, 1450, 1436, 1334, 1266, 1226, 776, 763 and 647. MS (ES) m/e 318 (M+1).

reactant | 9-[(2-pyridyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 1.43 mmol, 480 mg | N1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C20H16N2O3
reactant | NH3 | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ammonium hydroxide | 40 mL | [OH-].[NH4+]
product | 9-[(2-pyridyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 247 mg, 54% | N1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C19H15N3O2
